US08202863B2
A solution of 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid ethyl ester (6.7 g, 27.2 mmol) and NaOH (2.1 g, 54.4 mmol) in a 1:1:1 solution of THF, MeOH and water (300 mL) is heated at reflux for 45 min. The THF/MeOH is evaporated, and the aqueous solution is treated with 3 N HCl to adjust the pH to between 2 and 3. The solid is filtered off, washed with water and dried in vacuo to yield 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (5.4 g, 91%) as a solid. MS: 233 (M+H); 1H NMR (300 MHz, CD3OD): δ 2.85 (s, 3H), 7.24 (m, 1H), 7.50 (m, 1H), 8.17 (m, 1H), 8.32 (m, 1H), 9.20 (s, 1H).

reactant | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid ethyl ester | 27.2 mmol, 6.7 g | C(C)OC(=O)C=1C(=NC(=NC1)C1=CC(=CC=C1)F)C | C14H13FN2O2
reactant | NaOH | 54.4 mmol, 2.1 g | [OH-].[Na+]
reactant | THF | C1CCOC1 | C4H8O
reactant | MeOH | CO | CH4O
solvent | water | 300 mL | O | H2O
product | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid | 5.4 g, 91% | FC=1C=C(C=CC1)C1=NC=C(C(=N1)C)C(=O)O | C12H9FN2O2
